US07253286B2
{4-[4-(Cyclopropylureido)-3-fluorophenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester
[4-(4-Amino-3-fluorophenoxy)-7-methoxyquinolin-6-yl]carbamic acid benzyl ester (100 mg) and cyclopropylcarbamic acid phenyl ester (64 mg) were heated and stirred in dimethylsulfoxide (0.7 ml) at 85° C. for 5 hours and 40 minutes, in the same manner as Example 224, to obtain the title compound (11 mg) as a solid.

reactant | [4-(4-Amino-3-fluorophenoxy)-7-methoxyquinolin-6-yl]carbamic acid benzyl ester | 100 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N)F)=O | C24H20FN3O4
reactant | cyclopropylcarbamic acid phenyl ester | 64 mg | C1(=CC=CC=C1)OC(NC1CC1)=O | C10H11NO2
solvent | dimethylsulfoxide | 0.7 ml | CS(=O)C | C2H6OS
product | {4-[4-(Cyclopropylureido)-3-fluorophenoxy]-7-methoxyquinolin-6-yl}carbamic acid benzyl ester | 11 mg | C(C1=CC=CC=C1)OC(NC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)F)=O | C28H25FN4O5
